US09382188B2
step 3) 2-(3,3-dimethylbut-1-en-2-yl)-2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl
To a solution of 2-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-2-ol (182 mg) and triethylamine (0.12 mL) in toluene (5 mL) was added thionyl chloride (60 μL), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (153 mg) as a colorless oil.

reactant | 2-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-2-ol | 182 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C)(C(C)(C)C)O | C27H31FO4
reactant | triethylamine | 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 60 μL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3,3-dimethylbut-1-en-2-yl)-2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl | 153 mg | CC(C(=C)C1=C(C=CC(=C1)OCC1=CC=C(C=C1)OC)C1=C(C=CC(=C1)OC)F)(C)C | C27H29FO3
